Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Abdominal pain, nausea/vomiting
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ year old male with history of prostate cancer, hypertension 
presents with one day history of right lower quadrant pain, 
nausea, and vomiting. Patient endorses a few days history of 
constipation, though has had one small bowel movement recently.  
There is no melena, hematochezia, BRBPR.  Overnight on the night 
before admission, he started to have localizing abdominal pain 
to the RLQ, non-radiating, constant, stabbing and ranges from a 
___.  He endorses nausea and vomiting (non-bloody, he thinks 
he may have seen bile).  There is no history of abdominal 
surgeries, first time this has occurred to him. Pain was not 
worsened by food or drink.  He experienced 30 minutes of shaking 
chills, no fevers, and he did monitor his temperature. Patient 
called in to his PCP and he took ciprofloxacin/metronidazole 
today, unsure of the dosage.  He endorses dysuria, urgency and 
difficulty start and stopping a stream. 

In the ED, initial vitals were 99.6 105 188/61 18 99% RA.  On 
exam, lungs were clear, abdomen was soft but distended, with 
tenderness to deep palpation in the RLQ.  There was no CVA 
tenderness.  Labs showed WBC 12.9K with left shift, bicarbonate 
21, lactate 2.8, creatinine 1.2, and grossly positive UA.  He 
received 2 liters NS, ciprofloxacin 400 mg x 1, and 
acetaminophen 1000 mg x 2.  CT A/P preliminarily showed moderate 
right hydroureteronephrosis, right perinephric
stranding, and stranding around the right ureter without 
obstructing stone or lesion identified.  Blood and urine 
cultures were sent.

Currently, the patient reports no abdominal pain, no nausea or 
vomiting.
 
Review of systems:  
10 pt ROS negative other than noted
 
Past Medical History:
Hypertension
Hyperlipidemia
? Psoriatic arthritis/rheumatoid arthritis
Gout
Prostate cancer, treated in ___
 
Social History:
___
Family History:
Father with atrial fibrillation and CHF.  Mother with aneurysm.
 
Physical Exam:
ADMISSION EXAM:
Vitals: 97.9PO 129/70 61 18 96 RA  
GEN: Alert, oriented to name, place and situation. Fatigued 
appearing but comfortable, no acute signs of distress.  
HEENT: NCAT, Pupils equal and reactive, sclerae anicteric, OP 
clear, MMM.  
Neck: Supple, no JVD
Lymph nodes: No cervical, supraclavicular LAD.  
CV: S1S2, reg rate and rhythm, no murmurs, rubs or gallops.  
RESP: Good air movement bilaterally, no rhonchi or wheezing.  
ABD: Soft, non-tender, obese, distended, + bowel sounds.  
EXTR: No lower leg edema, no clubbing or cyanosis  
DERM: No active rash.  
Neuro:  non-focal.  
PSYCH: Appropriate and calm. 

DISCHARGE EXAM:
VS:  98.3PO 145/60 68 18 95 RA 
GEN: Alert, oriented to name, place and situation. Fatigued
appearing but comfortable, no acute signs of distress.  
HEENT: NCAT, Pupils equal and reactive, sclerae anicteric, OP
clear, MMM.  
Neck: Supple, no JVD
Lymph nodes: No cervical, supraclavicular LAD.  
CV: S1S2, reg rate and rhythm, no murmurs, rubs or gallops.  
RESP: Good air movement bilaterally, no rhonchi or wheezing.  
ABD: Soft, non-tender, non-distended, + bowel sounds.  
EXTR: No lower leg edema, no clubbing or cyanosis  
DERM: No active rash.  
Neuro: non-focal.  
PSYCH: Appropriate and calm.
 
Pertinent Results:
ADMISSION LABS
--------------
___ 09:20PM BLOOD WBC-12.9*# RBC-4.22* Hgb-12.7* Hct-40.2 
MCV-95 MCH-30.1 MCHC-31.6* RDW-13.9 RDWSD-48.2* Plt ___
___ 09:20PM BLOOD Neuts-92.3* Lymphs-3.2* Monos-3.2* 
Eos-0.0* Baso-0.2 Im ___ AbsNeut-11.87* AbsLymp-0.41* 
AbsMono-0.41 AbsEos-0.00* AbsBaso-0.02
___ 09:20PM BLOOD ___ PTT-30.2 ___
___ 09:20PM BLOOD Glucose-112* UreaN-29* Creat-1.2 Na-133 
K-3.9 Cl-97 HCO3-21* AnGap-19
___ 09:20PM BLOOD ALT-23 AST-28 AlkPhos-68 TotBili-1.2
___ 09:20PM BLOOD Albumin-4.2
___ 09:33PM BLOOD Lactate-2.8*

MICROBIOLOGY
------------
Time Taken Not Noted     Log-In Date/Time: ___ 9:41 pm
      URINE

                            **FINAL REPORT ___

   URINE CULTURE (Final ___:    NO GROWTH

Blood culture x ___: pending
Blood culture x ___: pending
Blood culture x ___: pending

IMAGING
-------
CT A/P on admission:
1. Delayed nephrogram, right perinephric stranding, and 
stranding around the right ureter without obstructing stone or 
lesion identified.  Considerations include infectious and 
inflammatory processes although urothelial neoplasm can't be 
excluded.  Follow up renal ultrasound 2 weeks after treatment is 
recommended. 
2. Normal appendix.  No obstruction. 
3. Diverticulosis. 
4. Compression deformity of the L1 and T12 vertebral bodies, new 
since ___. 

DISCHARGE LABS
--------------
___ 06:15AM BLOOD WBC-10.8* RBC-3.61* Hgb-11.1* Hct-34.2* 
MCV-95 MCH-30.7 MCHC-32.5 RDW-14.3 RDWSD-49.6* Plt ___
___ 06:15AM BLOOD Glucose-110* UreaN-17 Creat-1.0 Na-136 
K-3.8 Cl-101 HCO3-22 AnGap-17
___ 06:15AM BLOOD Calcium-8.3* Phos-2.5* Mg-2.0
___ 11:41AM BLOOD Lactate-1.___ year old male with history of prostate cancer, hypertension 
presents with one day history of right lower quadrant pain, 
nausea, and vomiting, with pyelonephritis.

# Pyelonephritis
# Abdominal pain
# Fever
# Nausea with vomiting
# Right hydroureteronephrosis
# Partial urinary obstruction: patient with positive urinalysis, 
elevated lactate, chills, tachycardia, nausea with vomiting, all 
suspicious of pyelonephritis.  Urine culture was negative but 
obtained after antibiotic initiation.  CT A/P showed stranding 
of right kidney, along with right hydroureteronephrosis and 
partial obstruction, cannot rule out urothelial neoplasm.  
Urology has seen the patient and recommended renal ultrasound 
and MEG3 scan two weeks following treatment of infection for 
further assessment.  Patient with fever after admission, but WBC 
count downtrending.  He will stay on PO ciprofloxacin for a 
___ day course.  Urine and blood cultures will need to be 
followed up.  Urology follow-up will be scheduled by patient's 
PCP.  He will require repeat renal ultrasound and MEG3 scan to 
further assess his CT findings.
 
# Hypertension: continued home lisinopril

# Hyperlipidemia: held home atorvastatin
 
# Gout: continued home allopurinol
 
TRANSITIONS OF CARE
-------------------
# Follow-up:  Patient will follow up with his PCP.  He will stay 
on PO ciprofloxacin for a ___ day course.  Urine and blood 
cultures will need to be followed up.  Urology follow-up will be 
scheduled by patient's PCP.  He will require repeat renal 
ultrasound and MEG3 scan to further assess his CT findings.

# Code status: full
 

 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Lisinopril 10 mg PO DAILY 
2. Atorvastatin Dose is Unknown  PO QPM 
3. Aspirin 81 mg PO DAILY 
4. Vitamin D Dose is Unknown  PO DAILY 
5. Allopurinol ___ mg PO DAILY 
6. Enbrel (etanercept) unknown  subcutaneous unknown 
7. Naproxen Dose is Unknown  PO Frequency is Unknown 

 
Discharge Medications:
1.  Ciprofloxacin HCl 500 mg PO Q12H  
2.  Atorvastatin unknown  PO QPM  
3.  Naproxen unknown  PO Frequency is Unknown  
4.  Vitamin D unknown  PO DAILY  
5.  Allopurinol ___ mg PO DAILY  
6.  Aspirin 81 mg PO DAILY  
7.  Enbrel (etanercept) unknown  SUBCUTANEOUS Frequency is 
Unknown  
8.  Lisinopril 10 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Pyelonephritis
Partial urinary tract obstruction
Right hydroureteronephrosis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Dr. ___,

___ was a pleasure caring for you during your recent stay at 
___.  You came for further evaluation of chills, abdominal 
pain, nausea and vomiting.  Further investigation showed that 
you had a kidney infection, and you were placed on 
ciprofloxacin.  You will continue taking this antibiotic for a 
full course.  You improved soon after initiation of this 
therapy.

You had a fever the night before discharge.  If these fevers 
continue, or you feel worse in any way, please contact your PCP, 
___.

It is important that you continue to take your medications as 
prescribed and follow up with the appointments listed below.

Good luck!
 
Followup Instructions:
___